US08791107B2
PREPARATION x41: 2-chloro-5-(6-chloro-2,3-dihydro-1H-inden-1-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one
The title compound was prepared in a manner similar to PREPARATION x35 using 4-(5-bromo-2-chloropyrimidin-4-yl)-N-(6-chloro-2,3-dihydro-1H-inden-1-yl)morpholine-3-carboxamide (PREPARATION x40, 567 mg, 1.201 mmol), Xantphos (52.1 mg, 0.090 mmol), palladium(II)acetate (13.48 mg, 0.060 mmol) and potassium phosphate (255 mg, 1.201 mmol) in dioxane (5 mL) and tert-butanol (1 mL). 1H NMR (400 MHz, DMSO-d6) δ 2.21-2.48 (m, 3H), 2.87-3.05 (m, 2H), 3.05-3.21 (m, 1H), 3.47-3.65 (m, 2H), 3.88-4.01 (m, 1H), 4.08-4.32 (m, 2H), 4.39-4.56 (m, 1H), 7.16-7.42 (m, 4H). ESI-MS m/z [M+H]+ calc'd for C18H16Cl2N4O2, 391.07. found 391.3.

reactant | 4-(5-bromo-2-chloropyrimidin-4-yl)-N-(6-chloro-2,3-dihydro-1H-inden-1-yl)morpholine-3-carboxamide | 1.201 mmol, 567 mg | BrC=1C(=NC(=NC1)Cl)N1C(COCC1)C(=O)NC1CCC2=CC=C(C=C12)Cl | C18H17BrCl2N4O2
reactant | Xantphos | 0.090 mmol, 52.1 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | potassium phosphate | 1.201 mmol, 255 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | tert-butanol | 1 mL | C(C)(C)(C)O | C4H10O
catalyst | palladium(II)acetate | 0.060 mmol, 13.48 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-chloro-5-(6-chloro-2,3-dihydro-1H-inden-1-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one | ClC1=NC=2N3C(C(N(C2C=N1)C1CCC2=CC=C(C=C12)Cl)=O)COCC3 | C18H16Cl2N4O2
